US06333322B1
3,4-Dimethyl-9-methylene-10-(3-bromopropyl)acridan
0.1 g of 3,4-dimethyl-10-(3-bromopropyl)-9-acridone was dissolved in 5 ml of dry tetrahydrofuran. Then 0.36 ml of methyllithium (a 1.4 M solution in diethyl ether) was added dropwise at −78° C. After stirring at the same temperature for 1 hr, water was added to the liquid reaction mixture followed by extraction with ethyl acetate. The organic layer was washed with water and dried over anhydrous magnesium sulfate. After evaporating the solvent under reduced pressure, the residue was purified by silica gel column chromatography to give 0.1 g of the title compound.

reactant | 3,4-dimethyl-10-(3-bromopropyl)-9-acridone | 0.1 g | CC=1C=CC=2C(C3=CC=CC=C3N(C2C1C)CCCBr)=O | C18H18BrNO
reactant | methyllithium | 0.36 ml | C[Li]
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3,4-Dimethyl-9-methylene-10-(3-bromopropyl)acridan | 0.1 g | CC=1C=CC=2C(C3=CC=CC=C3N(C2C1C)CCCBr)=C | C19H20BrN
